US04888025
Preparation of 1-(2',4'-diacetylaminophenoxy)-3-dimethylaminopropan-2-ol
Under the conditions described in the second step of Example 10, an alcoholic solution of 0.1 mol (25.5 g) of 1-(2'-amino-4'-nitrophenoxy)-3-dimethylaminopropan-2-ol is subjected to catalytic hydrogenation in the presence of palladium-on-charcoal. The catalyst is removed by filtration, the solvent is driven off in vacuo, the oily residue is taken up in 200 ml of ethyl acetate, and 17 ml of acetic anhydride are added gradually thereto. The expected diacetylated derivative precipitates in the form of crystals. It is filtered off, washed with acetone and dried in vacuo. It melts at 118°-120° C.

reactant | 1-(2'-amino-4'-nitrophenoxy)-3-dimethylaminopropan-2-ol | 0.1 mol, 25.5 g | NC1=C(OCC(CN(C)C)O)C=CC(=C1)[N+](=O)[O-] | C11H17N3O4
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 1-(2',4'-diacetylaminophenoxy)-3-dimethylaminopropan-2-ol | C(C)(=O)NC1=C(OCC(CN(C)C)O)C=CC(=C1)NC(C)=O | C15H23N3O4
